US07495004B2
N-{3-[7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]phenyl}acetamide
A solution of 8-(3-aminophenyl)-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione (25 mg, 0.06 mmol) in 255 μL CH2Cl2 was treated with acetic anhydride (6.6 μL, 0.07 mmol). The reaction was stirred for 1.5 hr and then blown dry under nitrogen. The crude product was purified by preparative thin layer chromatography (silica gel, 1 mm plate, EM Science 20×20 cm silica gel 60 F264) eluting with EtOAc:hexane (3:1) to give 4 mg (15% yield) of the title compound as a clear oil: 1H NMR (CDCl3, 400 MHz) 7.67-7.61 (m, 2H), 7.36-7.26 (m, 2H), 7.21-7.15 (m, 1H), 7.13-7.01 (m, 2H), 6.84-6.75 (m, 1H), 5.86 (s, 2H), 3.62 (s, 3H), 3.38 (s, 3H), 2.97 (s, 3H); MS (ESP+) m/e 456 (MH+); TLC (EtOAc:hexanes/3:1) Rf=0.11.

reactant | 8-(3-aminophenyl)-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 0.06 mmol, 25 mg | NC=1C=C(C=CC1)C1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O)C | C20H17ClFN5O2
reactant | acetic anhydride | 0.07 mmol, 6.6 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 255 μL | C(Cl)Cl | CH2Cl2
product | N-{3-[7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]phenyl}acetamide | 4 mg, 15% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)C=2C=C(C=CC2)NC(C)=O)C(=CC=C1)F | C22H19ClFN5O3
